US05192785
2-(4-Chlorophenoxy)-2-methylpropanol
The title compound was prepared by the procedure of Preparation 2 in quantitative yield from clofibric acid (Aldrich Chem. Co.) and lithium aluminum hydride.

reactant | clofibric acid | CC(C)(C(=O)O)OC=1C=CC(=CC1)Cl | C10H11ClO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4-Chlorophenoxy)-2-methylpropanol | quantitative yield | ClC1=CC=C(OC(CO)(C)C)C=C1 | C10H13ClO2
